US08383820B2
3-(6-Chloro-pyridin-3-ylmethoxy)-benzoic acid
NaH (55% suspension in mineral oil, 1.2 g, 28 mmol) was slowly added to a suspension of 2-chloro-5-chloromethylpyridine (3.0 g, 19 mmol), ethyl 3-hydroxybenzoate (3.1 g, 19 mmol), and potassium iodide (600 mg, 3.7 mmol) in DMF (20 ml). After stirring for 2 days at 20° C., water (10 ml) and NaOH (32.5%, 2 ml) was added. The dark mixture was stirred at 80° C. overnight, were upon it was concentrated in vacuo. The residue was purified by preparative LC-MS to give 0.80 g of the title compound. LC-MS (m/z): 264 (M+1).

reactant | NaH | 28 mmol, 1.2 g | [H-].[Na+]
reactant | 2-chloro-5-chloromethylpyridine | 19 mmol, 3.0 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | ethyl 3-hydroxybenzoate | 19 mmol, 3.1 g | OC=1C=C(C(=O)OCC)C=CC1 | C9H10O3
reactant | potassium iodide | 3.7 mmol, 600 mg | [I-].[K+]
reactant | NaOH | 2 ml | [OH-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 3-(6-Chloro-pyridin-3-ylmethoxy)-benzoic acid | 0.80 g | ClC1=CC=C(C=N1)COC=1C=C(C(=O)O)C=CC1 | C13H10ClNO3
